US04642313
5.0 g of ethyl 2-[2-isopropyl-5-(2-furyl)-4-oxazolyl]acetate, 70 ml of methanol, 7 ml of water and 3.75 g of potassium hydroxide are treated in the same manner as described in Example 16. 3.0 g of 2-[2-isopropyl-5-(2-furyl)-4-oxazolyl]acetic acid are obtained. Yield: 67.1%

reactant | ethyl 2-[2-isopropyl-5-(2-furyl)-4-oxazolyl]acetate | 5.0 g | C(C)(C)C=1OC(=C(N1)CC(=O)OCC)C=1OC=CC1 | C14H17NO4
reactant | methanol | 70 ml | CO | CH4O
reactant | potassium hydroxide | 3.75 g | [OH-].[K+]
solvent | water | 7 ml | O | H2O
product | 2-[2-isopropyl-5-(2-furyl)-4-oxazolyl]acetic acid | 3.0 g, Yield: 67.1% | C(C)(C)C=1OC(=C(N1)CC(=O)O)C=1OC=CC1 | C12H13NO4
